US07008940B1
1,6,7,8-Tetrahydro-2,4,5,7,7-pentamethyl-2-(1,2,4,5-tetrahydro-3H-benzazepine-3-ylmethyl)-2H-furo[3,2-e]indole hydrochloride
A suspension of 1,6,7,8-tetrahydro-2-(iodomethyl)-2,4,5,7,7-pentamethyl-2H-furo[3,2-e]indole (520 mg, 1.40 mmol), 2,3,4,5-tetrahydro-1H-3-benzazepine (309 mg, 2.10 mmol) and potassium carbonate (387 mg, 2.80 mmol) in N,N-dimethylacetamide (3 mL) was stirred at 180° C. for 3 hours under the nitrogen atmosphere. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate two times, The combined organic layers were washed with water and saturated brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to basic silica gel column chromatography (hexane-ethyl acetate 10:1) to obtain an oil. This was dissolved in methanol, a 10% hydrogen chloride-methanol solution was added to obtain 464 mg of the title compound.

reactant | 1,6,7,8-tetrahydro-2-(iodomethyl)-2,4,5,7,7-pentamethyl-2H-furo[3,2-e]indole | 1.40 mmol, 520 mg | ICC1(CC2=C3CC(NC3=C(C(=C2O1)C)C)(C)C)C | C16H22INO
reactant | 2,3,4,5-tetrahydro-1H-3-benzazepine | 2.10 mmol, 309 mg | C1CNCCC2=C1C=CC=C2 | C10H13N
reactant | potassium carbonate | 2.80 mmol, 387 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride methanol | Cl.CO
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
product | 1,6,7,8-Tetrahydro-2,4,5,7,7-pentamethyl-2-(1,2,4,5-tetrahydro-3H-benzazepine-3-ylmethyl)-2H-furo[3,2-e]indole hydrochloride | 464 mg, Yield 78% | Cl.CC1(CC2=C3CC(NC3=C(C(=C2O1)C)C)(C)C)CC1CNC2=C(CC1)C=CC=C2 | InChI=1S/C26H34N2O.ClH/c1-16-17(2)24-21(20-13-25(3,4)28-23(16)20)14-26(5,29-24)12-18-10-11-19-8-6-7-9-22(19)27-15-18;/h6-9,18,27-28H,10-15H2,1-5H3;1H
